US08309581B2
{4-[2-(1-Benzyl-5,6-difluoro-1H-benzoimidazol-2-yl)-5-chloro-phenoxymethyl]-phenoxy}-acetic acid methyl ester
The title compound was prepared in analogy to Example 5, intermediate a, from 2-(1-benzyl-5,6-difluoro-1H-benzoimidazol-2-yl)-5-chloro-phenol (Example 48, intermediate a) and (4-bromomethyl-phenoxy)-acetic acid methyl ester (CAS Reg. No. 104508-23-8). Brown sticky solid (67%). MS (Turbo Spray): m/z=549.2 (M+H).

reactant | 2-(1-benzyl-5,6-difluoro-1H-benzoimidazol-2-yl)-5-chloro-phenol | C(C1=CC=CC=C1)N1C(=NC2=C1C=C(C(=C2)F)F)C2=C(C=C(C=C2)Cl)O | C20H13ClF2N2O
reactant | (4-bromomethyl-phenoxy)-acetic acid methyl ester | COC(COC1=CC=C(C=C1)CBr)=O | C10H11BrO3
product | {4-[2-(1-Benzyl-5,6-difluoro-1H-benzoimidazol-2-yl)-5-chloro-phenoxymethyl]-phenoxy}-acetic acid methyl ester | COC(COC1=CC=C(C=C1)COC1=C(C=CC(=C1)Cl)C1=NC2=C(N1CC1=CC=CC=C1)C=C(C(=C2)F)F)=O | C30H23ClF2N2O4
